US09284331B2
Step 1: 2-(4-ethyl-1H-imidazol-1-yl)-9-iodo-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one.
111-1. A mixture of 9-iodo-3,4,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione (440 mg, 1.24 mmol) in dry DCE (10 mL) was treated with POCl3 (0.23 mL, 2.49 mmol) and heated to 100° C. for 1 h. The mixture was allowed to cool to RT and then poured onto H2O and extracted with DCM. The combined org. layers were then dried over Na2SO4, filtered and concentrated in vacuo. The residue obtained was taken up in DCE (10 mL) and 4-ethyl-1H-imidazole (597 mg, 6.21 mmol) was added. The mixture was heated to 100° C. for 1 h. The mixture was then allowed to cool to RT, poured onto H2O, extracted with DCM and the combined org. layers were then dried over Na2SO4, filtered and concentrated in vacuo. The crude product was purified by flash chromatography (SiO2, DCM to DCM/MeOH 9:1) to give the title compound (523 mg) as a brown oil. UPLC-MS: MS 433.1 (M+H+); UPLC rt 0.93 min.

reactant | 9-iodo-3,4,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione | 1.24 mmol, 440 mg | IC1=C2CCN3C(C2=CC=C1)=CC(NCC3=O)=O | C13H11IN2O2
reactant | POCl3 | 2.49 mmol, 0.23 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 4-ethyl-1H-imidazole | 6.21 mmol, 597 mg | C(C)C=1N=CNC1 | C5H8N2
solvent | DCE | 10 mL | ClCCCl | C2H4Cl2
solvent | DCE | 10 mL | ClCCCl | C2H4Cl2
product | 2-(4-ethyl-1H-imidazol-1-yl)-9-iodo-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one | 523 mg | C(C)C=1N=CN(C1)C1=NCC(N2C(C3=CC=CC(=C3CC2)I)=C1)=O | C18H17IN4O
